* D:\home\brosnan\books\circuits\Circuits-LTSpice\Monte-Carlo-simulations\Monte-Carlo-Simulation-LTSpice.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 AC 1
C1 N002 N001 {mc(10u, tolb)}
R1 N002 Vout {mc(10k, tola)}
R2 Vout 0 {mc(10k, tola)}
C2 Vout 0 {mc(1u, tolb)}
.param tola=0.1
.param tolb=0.2
.step param run 1 500 1
.ac dec 10 1 1k
* mc (x,y) when called returns a random number between x*(1+y) and x*(1-y) with uniform distribution
* {mc(10K,0.05)} = 10K nominal value resistor with 5% tolerance
* Resistors' tolerance 10%
* Capacitors' tolerance 20%
* 500 Monte Carlo analysis
* AC analysis
* Monte Carlo analysis in LTSpiceIV
* Obtained from:\nhttps://k6jca.blogspot.com/2012/07/monte-carlo-and-worst-case-circuit.html
.backanno
.end
