* D:\home\brosnan\books\circuits\Circuits-LTSpice\Monte-Carlo-simulations\Noise-simulation-example.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 N001 N002 Vout Vcc Vee NC_01 LT6200 ;§pnba IN+)IN-)OUT)VCC)VEE)SHDN_L
V1 Vcc 0 2.5
V2 Vee 0 -2.5
R1 Vout N002 900
R2 N002 0 100
V3 N001 0 AC 1
.noise V(Vout) V3 dec 100 100 40Meg
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\LT6200.asy)
.lib LTC2.lib
.backanno
.end
