* D:\home\brosnan\books\circuits\Circuits-LTSpice\Signal processing\Non-inverting-derivative.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N002 N001 10k
R2 0 N004 10k
C1 N004 N003 100µ
C2 N001 0 100µ
V1 N003 0 PULSE(0 1 0 100m 100m 1n 200m) AC 1
X§U2 N004 N001 Vcc Vee N002 LT1007 ;§pnba In+)In-)V+)V-)OUT
V2 Vcc 0 10
V3 Vee 0 -10
;ac dec 1000 1 1000Meg
.tran 500m
* Non inverting derivative
* Library below included based on ModelFile attribute of instance X§U2 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\LT1007.asy)
.lib LTC.lib
.backanno
.end
