* D:\home\brosnan\books\circuits\Circuits-LTSpice\Signal processing\Non-inverting-integrator.asc
* Generated by LTspice 26.0.1 for Windows.
C1 N002 0 10µ
C2 out N001 10µ
R1 N001 0 10k
R2 N002 N003 10k
V1 N003 0 PULSE(1 -1 0 1n 1n 100m 200m) AC 1
X§U2 N002 N001 Vcc Vee out LT1007 ;§pnba In+)In-)V+)V-)OUT
V2 Vcc 0 10
V3 Vee 0 -10
;ac dec 1000 1m 1000Meg
.lib opamp.sub
.tran 1 startup
* Non inverting integrator
* Library below included based on ModelFile attribute of instance X§U2 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\LT1007.asy)
.lib LTC.lib
.backanno
.end
