* D:\home\brosnan\books\circuits\Circuits-LTSpice\Signal processing\Non-inverting-sum.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 A N001 Vcc Vee OUT LT1007 ;§pnba In+)In-)V+)V-)OUT
V1 Vcc 0 50
V2 Vee 0 -50
R1 N001 0 10k
R2 OUT N001 40k
R3 A N002 10k
R4 A N004 10k
R5 A N003 10k
V3 N002 0 SINE(0 1 1)
V4 N003 0 SINE(0 1 1)
V5 N004 0 SINE(0 10 1)
R6 A P001 10k
V6 P001 0 SINE(0 2 1)
V7 P002 0 SINE(0 1 1)
R7 A P002 10k
.tran 1s
* Voltage on bus A is the average of the voltages in the input (assuming that the resistors\napplied to each signal are the same). The amplifier is an opamp in non inverting \nconfiguration so Vout is given by V+ * (1+R2/R1). If I want the sum of the signals\nI just need to set 1 + R2/R1 equal to the number of signals in the sum. Therefore,\n R2/R1 needs to be equal to the number of signals - 1.\n \nIn this case: R2/R1 = 5 - 1 = 4
* Non inverting sum
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\LT1007.asy)
.lib LTC.lib
.backanno
.end
