* D:\home\brosnan\books\circuits\Circuits-LTSpice\Filters\RLC\Notch-and-band-suppress-filters.asc
* Generated by LTspice 26.0.1 for Windows.
L1 N005 N001 331µ
C1 N005 N001 7.7n
R1 N005 0 500
Vin N001 0 AC 1
L2 0 N003 331µ
C2 0 N003 7.7n
R2 N003 N001 500
C3 N002 N001 7.7n
L3 N006 N002 331µ
R3 0 N006 500
C4 N007 N004 7.7n
L4 0 N007 331µ
R4 N004 N001 500
.ac dec 500 10k 1Meg
* Filtro passa banda \nincentrato attorno \na 100 kHz \n(freq di risonanza)
* Filtro taglia banda \nincentrato attorno \na 100 kHz \n(freq di risonanza)
* Vout1
* Vout2
* Notch RLC filters
* 1
* 2
* For all filters:\n1) Resonance frequency is F0 = 1/(2*pi*L*C) = 99.7kHz (about 100kHz)\n \nFilter 1. Sharp notch filter\n1) At resonance frequency F0, impedance of parallel C1 and L1 is infinite. Vout1 = 0V.\n2) At frequencies much higher than F0, capacitor is a short circuit -> Vout = Vin.\n3) At frequencies much lower than F0, inductor is a short circuit -> Vout = Vin.\n \nFilter 2. Band suppress filter\n1) At resonance frequency F0, impedance of parallel C1 and L1 is infinite. Vout2 = Vin.\n2) At frequencies much higher than F0, capacitor is a short circuit -> Vout = 0V.\n3) At frequencies much lower than F0, inductor is a short circuit -> Vout = 0V.\n \nFilter 3. Less sharp band suppress filter.\n1) At resonance frequency F0, impedance of series C1 and L1 is zero. Vout3 = Vin.\n2) At frequencies much higher than F0, capacitor is a short circuit, inductor blocks -> Vout = 0V.\n3) At frequencies much lower than F0, inductor is a short circuit, capacitor blocks -> Vout = 0V.\n \nFilter 4. Less sharp notch filter\n1) At resonance frequency F0, impedance of series C1 and L1 is zero. Vout4 = 0V.\n2) At frequencies much higher than F0, capacitor is a short circuit -> Vout = Vin.\n3) At frequencies much lower than F0, inductor is a short circuit -> Vout = Vin.
* 3
* 4
* Vout3
* Vout4
.backanno
.end
