* D:\home\brosnan\books\circuits\Circuits-LTSpice\Pwm\PWM-modulation.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N006 0 PULSE(-1 1 0 5u 5u 0 10u)
V2 N001 0 SINE(0 1 1k)
X§U1 N006 N001 Vcc Vee N002 LT1720 ;§pnba In+)In-)V+)V-)OUT
V3 Vcc 0 5
V4 Vee 0 -5
L1 N004 N003 25.3µ
C1 N004 0 10µ
C2 N005 N004 1.591µ
R2 N005 0 1k
R1 N002 N003 1k
R3 N003 0 20k
.tran 55m
* Band pass filter out -> V2 reappears
* Carrier: modulating signal triangular wave
* Signal
* PWM modulation
* PWM modulation and demodulation
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1720.asy)
.lib LT1720.sub
.backanno
.end
