* D:\home\brosnan\books\circuits\Circuits-LTSpice\Trigger circuits\Peak-trigger-circuit.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 N005 N001 Vcc Vee N002 LT1007 ;§pnba In+)In-)V+)V-)OUT
V§Signal N001 0 SINE(0 1 10)
Vref N005 0 0.8
V3 Vcc 0 10
V4 Vee 0 -10
R2 N003 0 100k
C1 N003 N002 1µ
D1 N003 N004 D
R1 N004 0 10k
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1
* Comparator
* High pass
* OUT
* Peak trigger circuit
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\LT1007A.asy)
.lib LTC.lib
.backanno
.end
