* D:\home\brosnan\books\circuits\Circuits-LTSpice\Oscillators\Phase-shift-oscillator-RC.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N004 0 65
R2 N005 0 65
R3 N003 0 65
C1 N001 N004 1µ
C2 N004 N005 1µ
C3 N005 N003 1µ
R5 N002 N003 1k
X§U1 0 N002 A B N001 LT1001 ;§pnba In+)In-)V+)V-)OUT
R6 N001 N002 32k
V1 A 0 15
V2 B 0 -15
.tran 1s startup
* Phase-shift oscillator
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\LT1002A.asy)
.lib LTC.lib
.backanno
.end
