* D:\home\brosnan\books\circuits\Circuits-LTSpice\Oscillators\Phase-shift-oscillator.asc
* Generated by LTspice 26.0.1 for Windows.
C1 N014 0 100n
R1 N014 N012 1k
C2 N015 0 100n
R2 N015 N014 1k
C3 N013 0 100n
R3 N013 N015 1k
V1 N016 0 2.5
V2 Vcc 0 5
R4 N011 N013 55.2k
R5 N012 N011 1.5Meg
X§U1 N016 N011 Vcc 0 N012 LT1880 ;§pnba In+)In-)V+)V-)OUT
C4 N009 0 100n
R6 N009 N002 1k
C5 N008 0 100n
R7 N008 N004 1k
X§U3 N009 N004 Vcc 0 N004 LT1880 ;§pnba In+)In-)V+)V-)OUT
C6 N005 0 100n
R8 N005 N003 1k
X§U4 N008 N003 Vcc 0 N003 LT1880 ;§pnba In+)In-)V+)V-)OUT
V3 N010 0 2.5
R9 N001 N005 180k
R10 N002 N001 1.5Meg
X§U5 N010 N001 Vcc 0 N002 LT1880 ;§pnba In+)In-)V+)V-)OUT
R11 N007 N006 1k
C7 N007 0 100n
V4 N006 0 AC 1
.tran 10ms startup
;ac dec 1k 1 1Meg
* Rules for oscillating:\n1) 180 deg phase shift\n2) Unity closed loop gain
* Phase shift oscillator
* With opamp buffer:\nNo interaction between filters, oscillating frequency is 2.71 kHz\ni.e. where phase shift is 60 deg for each filter and attenuation is -6 db (1/2)\nopamp gain is set to 8 to obtain unity closed loop gain.
* Without opamp buffer.\nDue to interaction between filtering stage the oscillating frequency is 3.56 kHz\nopamp gain is set to 27 to obtain unity closed loop gain
* Library below included based on ModelFile attribute of instance X§U1, X§U3, X§U4, X§U5 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\LT1880.asy)
.lib LTC.lib
.backanno
.end
