* D:\home\brosnan\books\circuits\Circuits-LTSpice\Power-lines\Power-line-power-transmission.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Va 0 SINE(0 324.3 50 0 0 {phi_pos})
L1 E N001 100m
V2 E 0 SINE(0 300 50 0)
R1 N001 Va 1
V3 N005 0 PULSE(-509 509 {phi_pos/(3.1415*2*50)} 1n 1n 10m 20m)
L2 N007 N006 100m
V4 N007 0 SINE(0 300 50 0)
R2 N006 N005 1
V5 Vsw 0 PULSE(-1 1 0 1m 1m 0 2m)
V6 Vcarrier 0 SINE(0 0.8 50 {phi_pos/(3.1415*2*50)})
B1 N008 0 V=if(V(Vsw) < V(Vcarrier), 509, -509)
L3 N010 N009 100m
V7 N010 0 SINE(0 300 50 0)
R3 N009 N008 1
V8 N002 0 SINE(0 324.3 50 0 0 {phi_neg})
L4 N004 N003 100m
V9 N004 0 SINE(0 300 50 0)
R4 N003 N002 1
B2 N011 0 V=if(V(Vsw) < V(Vcarrier2), 509, -509)
L5 N013 N012 100m
V10 N013 0 SINE(0 300 50 0)
R5 N012 N011 1
V11 Vcarrier2 0 SINE(0 0.8 50 {phi_neg/(3.1415*2*50)})
.tran 0 1000m 900m
.param phi_pos=30 phi_neg=-30
* Inverter square wave modulation
* Transmission of active power from motor to grid/inverter
* Motor: \n-> R1, L1 stator resistances and reactances (1 phase)\n-> V2 is the back emf\n \nWhen Va leads (phi positive) E power goes from V1 to V2\nWhen Va lags (phi negative) E power goes from V2 to V1\n \nVa(t) = Va cos(wt + phi)\nE(t) = E cos(wt)
* Motor
* Motor
* Motor
* Motor
* Motor
* Inverter sinusoidal PWM modulation
* Inverter sinusoidal PWM modulation
.backanno
.end
