* D:\home\brosnan\books\circuits\Circuits-LTSpice\Amplifiers\Push-pull-amplifier-AB-BJT.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vcc 0 12
V2 Vee 0 -12
Q1 N003 N006 N011 0 2N3904
Q2 N018 N015 N011 0 2N3906
R1 Vcc N006 11.3k
D1 N006 N010 1N4148
D2 N010 N015 1N4148
R2 N015 Vee 11.3k
V3 V_signal 0 SINE(0 1 100k) AC 1
R3 Vout_1 0 1k
C1 N010 V_signal 22µ
C2 Vout_1 N011 22µ
R5 N018 Vee 1k
Q3 N001 N004 N007 0 2N3904
Q4 N016 N013 N007 0 2N3906
R6 Vcc N004 5.35k
D3 N004 N009 1N4148
D4 N009 N013 1N4148
R7 N013 0 5.35k
R8 Vout_2 0 1k
C3 Vout_2 N007 22µ
R10 N016 0 1k
C4 N009 V_signal 22µ
Q5 N002 N005 N008 0 2N3904
Q6 N017 N014 N008 0 2N3906
R11 Vcc N005 5.35k
D5 N005 N012 1N4148
D6 N012 N014 1N4148
R12 N014 0 5.35k
R13 Vout_3 0 1k
C5 Vout_3 N008 22µ
R14 Vcc N002 1k
R15 N017 0 1k
C6 N005 V_signal 22µ
C7 N014 V_signal 22µ
R4 Vcc N003 1k
R9 Vcc N001 1k
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1ms
* Use: amplifying current output\nGain: 1\n \nBias of transistors:\n \nInput signal peak to peak Vpp -> 1 V\nOutput current peak to peak -> I_out = Input signal/Output resistance = 1V/1k Ohm = 1mA\nBase current -> Ib = 1 mA / 100 = 10uA\nDiode drop -> 0.6 V\nBase current, assuming beta equal to 100 -> Ib = 1 mA / 100 = 10 uA\nCurrent through R1 and R2 -> IR1 = IR2 = 10uA + 1mA = 1.01 mA\nCalculation of R1 = R2 = (12 - (-12) - 0.6*2)/1.01mA/2 = 11.3k Ohm for double side supply\nCalculation of R1 = R2 = (12 - 0.6*2)/1.01mA/2 = 5.35k Ohm for single side supply\n \n \nDC blocking capacitor sizing:\n \nAs a rule of thumb, the capacitance should allow, at the lowest frequency, \nfor Xc to be lower than 1% of the resistance in series:\nXc = 1/(2*pi*f*C) < 0.01*Rout \nC > 1/(2*pi*f*0.01*Rout) = 1/(6.28*1000*0.01*1k) = 15.9 uF -> 22 uF\n \n\nR4 limits current through the transistors
;ac dec 100 1 100Meg
* Double side supply
* Single side supply
* Single side supply
* Push-pull AB class amplifier
.backanno
.end
