* D:\home\brosnan\books\circuits\Circuits-LTSpice\Filters\RC\RC-lowpass-cascaded.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N001 Output_low_pass_1 1
C1 Output_low_pass_1 0 100µ
V1 N001 0 SINE(0 1) AC 1
R3 Output_low_pass_1 Output_low_pass_2 1
C2 Output_low_pass_2 0 100µ
* Two RC low pass filter cascaded in series
.ac dec 1000 1 1Meg
* Frequency domain analysis
.backanno
.end
