* D:\home\brosnan\books\circuits\Circuits-LTSpice\Filters\RC\RC-square-wave-response.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 PULSE(0 80 0 0.001u 0.001u 10ms 20ms 20)
R1 N002 N001 20
R2 0 N002 60
C1 N002 0 0.4m
.tran 400ms
* Square wave. Set Vinitial to -200 for on and off simmetry
.backanno
.end
