* D:\home\brosnan\books\circuits\Circuits-LTSpice\Filters\RL\RL-lowpass.asc
* Generated by LTspice 26.0.1 for Windows.
Vin N001 0 SINE(1 1 25000) AC 1
L1 OUT N001 100µ
R1 OUT 0 1
.ac dec 1000 10 100k
* RL low pass filter
* Notes:\n1) The inductor lets through all the constant voltage. It lets through the DC offset in this case.\n \nDesign:\n1) Cut-off frequency is L/(2*pi*R) = 1.592kHz.\nAt cut off there is attenuation of -3 dB (by definition). That is Vout = Vin/sqrt(2)
.backanno
.end
