* D:\home\brosnan\books\circuits\Circuits-LTSpice\Filters\RLC\RLC-step-response-example.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 10
L1 N003 0 0.03
R1 N001 N002 10
C1 N002 N003 100µ
.tran 0 100ms 0 0.5ms startup
* RLC circuit:\n \nUnderdamped if L < 4 R^2 C\nOverdamped if L > 4 R^2 C\nCritically damped L = 4 R^2 C\nNo damping if R / (2L) = 0
* Step response
* RLC circuit
.backanno
.end
