* D:\home\brosnan\books\circuits\Circuits-LTSpice\Filters\RLC\RLC-step-response-resonance-frequency-series-parallel.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N004 0 10
L1 N005 N006 30m
R1 N004 N005 34.64
C1 N006 0 100µ
L2 N007 0 30m
R2 N007 0 8.66
C2 N007 0 100µ
I1 0 N007 10
V2 N009 0 10
L3 N010 N011 30m
R3 N009 N010 100
C3 N011 0 100µ
L4 N012 0 30m
R4 N012 0 8
C4 N012 0 100µ
I2 0 N012 10
V3 N013 0 10
L5 N014 N015 30m
R5 N013 N014 5
C5 N015 0 100µ
L6 N016 0 30m
R6 N016 0 50
C6 N016 0 100µ
I3 0 N016 10
V4 N001 0 SINE(0 1 91.93)
L7 N002 N003 30m
R7 N001 N002 50
C7 N003 0 100µ
L8 N008 0 30m
R8 N008 0 8.66
C8 N008 0 100µ
I4 0 N008 SINE(0 1 91.93)
.tran 0 50ms 0 0.05ms startup
* Step response of series RLC:\nV1 = Vin = constant step\nVout = Vcap
* Step response of parallel RLC:\nI1 = I_in = constant step\nI_out = I_inductor
* Critically damped RLC series and parallel step response
* Note:\n1) alpha controls the damping factor.\n2) alpha/w0 controls the damping ratio.
* Step response of series RLC:\nV1 = Vin = constant step\nVout = Vcap
* Step response of parallel RLC:\nI1 = I_in = constant step\nI_out = I_inductor
* Overdamped RLC series and parallel step response
* Step response of series RLC:\nV1 = Vin = constant step\nVout = Vcap
* Step response of parallel RLC:\nI1 = I_in = constant step\nI_out = I_inductor
* Underdamped RLC series and parallel step response
* Sinusoidal excitation at resonance frequency
* At resonance frequency, series impedance of LC  is zero, it's as if L and C were not\nin the circuit. After a short transient, Vsource is all on R and it sees only R.
* At resonance frequency, impedance of parallel L and C  is infinite, it's as if L and C \nwere not in the circuit. After a short transient, Isource goes all in R.
.backanno
.end
