* D:\home\brosnan\books\circuits\Circuits-LTSpice\Sources and regulators\Raw-voltage-regulator-with-zener-diode..asc
* Generated by LTspice 26.0.1 for Windows.
D1 0 N002 1N750
R1 N001 N002 242
V1 N001 0 12
R2 N002 0 470
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
* Raw voltage regulator with zener diode.
* The zener diode regulates the voltage by working in the breakdown region.\nR1 limits the current from the source.\n \nSizing: the load voltage is the nominal zener voltage 4.7V.\nThen IR_2 = 4.7/R2\n \nFrom the datasheet the zener current is found. R1 must be equal to:\n \nR1 = (V1 - Vz)/(Iz + IR_2) = (12 - 4.7)/(20mA + 10mA)
.tran 1
.backanno
.end
