* D:\home\brosnan\books\circuits\Circuits-LTSpice\Trigger circuits\Sensor-triggered-timer-temporizzatore-1.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N005 0 PULSE(0 5 1 1n 1n 100m 2)
Q1 Vcc P001 N008 0 2N3904
R1 N001 0 100k
C1 N001 0 10µ
V2 Vcc 0 12
R2 N007 N006 10k
Q2 N004 N007 0 0 2N3904
R3 N002 N004 1k
D1 Vcc N002 1N4148
R4 N001 N008 1k
R5 P001 N003 100
X§U3 N005 N001 Vcc Vee N003 LT1720 ;§pnba In+)In-)V+)V-)OUT
V3 Vee 0 -12
X§U1 N001 Vrif Vcc Vee N006 LT1720 ;§pnba In+)In-)V+)V-)OUT
V4 Vrif 0 1
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 3
* When PULSE V1 is triggered, it loads C1 through R4.\nC1 then discharges through R1 (Fast charge and slower discharge).\nWhile V(C1) > Vrif il comparator U1 keeps Q2 on which lights up LED D1
* Sensor triggered timer
* Library below included based on ModelFile attribute of instance X§U3, X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1720.asy)
.lib LT1720.sub
.backanno
.end
