* D:\home\brosnan\books\circuits\Circuits-LTSpice\Trigger circuits\Sensor-triggered-timer-temporizzatore-2.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 N005 N002 Vcc 0 N003 LT1018 ;§pnba In+)In-)V+)V-)OUT
V1 Vcc 0 12
Rx1 N005 Vcc 10k
Ry1 N005 0 10k
Rh1 N003 N005 10k
R1 N004 N003 50k
C1 out 0 100µ
R3 out 0 10k
V2 N002 0 PULSE(0 12 0.1 1n 1n 0.1 0.2 1)
Q1 N001 N004 0 0 2N3904
R4 Vcc N001 10k
R2 N008 N002 5k
Q2 N007 N008 out 0 2N3904
R5 Vcc N007 100
X§U2 out N006 Vcc 0 Vout LT1018 ;§pnba In+)In-)V+)V-)OUT
R6 N006 0 5k
R7 Vcc N006 5k
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1 startup
* A
* Hysteresis (if needed)
* Inverting the signal (if necessary)
* Delay:\n1. charge of C1 is fast -> about 40ms\n2. Discharge is slow -> about 4s
* Vout goes to actuator
* Sensor
* Timer (temporizzatore)
* Output stays high for a while after signal triggers it
* Library below included based on ModelFile attribute of instance X§U1, X§U2 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1018.asy)
.lib LT1018.sub
.backanno
.end
