* D:\home\brosnan\books\circuits\Circuits-LTSpice\AC-DC and DC-AC converters\Single-phase-rectifier-R-load-smoothing-capacitor.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 N002 SINE(0 4.86 88)
R2 OUT 0 250
C1 OUT 0 100µ
D1 N001 OUT D
D2 0 N002 D
D3 N002 OUT D
D4 0 N001 D
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 0.1s 0 0.06ms
* Single phase AC/DC converter (rectifier)
* Resistive load with smoothing capacitor
.backanno
.end
