* D:\home\brosnan\books\circuits\Circuits-LTSpice\AC-DC and DC-AC converters\Single-phase-rectifier-constant-current-load.asc
* Generated by LTspice 26.0.1 for Windows.
D1 N003 N001 D
D2 0 N004 D
D3 N004 N001 D
D4 0 N003 D
V1 N002 N004 SINE(0 325 50)
I1 N001 0 10
L1 N002 N003 100µ
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 30m
* Single phase AC/DC converter (rectifier)
* Transient analysis
* Constant current load: suitable to model loads with L/R >> 1/f
.backanno
.end
